US05993780
e. 3,5-Bis(2,2-dimethyl-1,3-dioxolane-4-carbamido)-2,4,6-triiodo-(2-acetoxyethyl)-benzene
3,5-Diamino-2,4,6-triiodo-(2-acetoxyethyl)benzene was acylated with 2,2-dimethyl-1,3-dioxolane-4-carboxylic chloride (prepared in situ) according to the procedure in Example 29a. After work up, the product was purified by preparative HPLC and isolated in 47% yield.

reactant | 3,5-Diamino-2,4,6-triiodo-(2-acetoxyethyl)benzene | NC=1C(=C(C(=C(C1I)N)I)CCOC(C)=O)I | C10H11I3N2O2
reactant | 2,2-dimethyl-1,3-dioxolane-4-carboxylic chloride | CC1(OCC(O1)C(=O)Cl)C | C6H9ClO3
product | 3,5-Bis(2,2-dimethyl-1,3-dioxolane-4-carbamido)-2,4,6-triiodo-(2-acetoxyethyl)-benzene | 47% yield | CC1(OCC(O1)C(=O)NC=1C(=C(C(=C(C1I)NC(=O)C1OC(OC1)(C)C)I)CCOC(C)=O)I)C | C22H27I3N2O8
